US09193744B2
Methylmagnesium bromide (3.0 M solution in diethyl ether, 1.30 mL, 1.30 mmol) was added dropwise over about 15 min to a solution of (3S,4aR,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-hydroxy-3-(trifluoromethyl)-1,3,4,4a,5,6,7,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazol-2(9H)-one; compound with (3R,4aS,12bS)-12b-ethyl-9-(4-fluorophenyl)-3-hydroxy-3-(trifluoromethyl)-1,3,4,4a,5,6,7,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazol-2(9H)-one (70, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl) (0.184 g, 0.399 mmol) and THF (8.0 mL) under a nitrogen atmosphere maintaining an internal temperature between about −40° C. and −50° C. The cold bath was allowed to thaw to about 0° C. over about 30 min. After about 3.5 h, the ice bath was removed. After about 30 min at rt, the solution was poured into sat. aq. NH4Cl (25 mL), water (5 mL) and DCM (25 mL). The layers were separated and the aqueous layer was extracted with DCM (2×25 mL). The combined organics were dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified on silica gel (25 g) using a gradient of 0-6% EtOAc in DCM. The fractions containing product were combined and concentrated under reduced pressure to afford (2R,3 S,4aR,12bR)-12b-ethyl-9-(4-fluorophenyl)-2-methyl-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-2,3-diol; compound with (2S,3R,4aS,12bS)-12b-ethyl-9-(4-fluorophenyl)-2-methyl-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-2,3-diol (71, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl, R3′=Hydroxyl, R3″=Methyl) (0.192 g, quantitative yield) as an ivory solid. LC/MS, method 2, Rt=2.89 min, MS m/z 477 (M+H)+. 1H NMR (400 MHz, DMSO) δ 8.29 (s, 1H), 7.83 (s, 1H), 7.83-7.75 (m, 2H), 7.54 (s, 1H), 7.44-7.36 (m, 2H), 5.70 (s, 1H), 4.49 (s, 1H), 3.24-3.10 (m, 1H), 3.00-2.88 (m, 1H), 2.45-2.30 (m, 2H), 2.22-2.09 (m, 1H), 2.06-1.71 (m, 5H), 1.67-1.56 (m, 2H), 1.48-1.31 (m, 1H), 1.33 (s, 3H), 0.48 (t, J=7.1 Hz, 3H).

reactant | Methylmagnesium bromide | 1.30 mmol, 3.0 M, 1.30 mL | C[Mg]Br
reactant | (3S,4aR,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-hydroxy-3-(trifluoromethyl)-1,3,4,4a,5,6,7,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazol-2(9H)-one; compound with (3R,4aS,12bS)-12b-ethyl-9-(4-fluorophenyl)-3-hydroxy-3-(trifluoromethyl)-1,3,4,4a,5,6,7,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazol-2(9H)-one | C(C)[C@]12[C@@H](CCCC=3C1=CC=1C=NN(C1C3)C3=CC=C(C=C3)F)C[C@@](C(C2)=O)(C(F)(F)F)O.C(C)[C@@]23[C@H](CCCC=1C2=CC=2C=NN(C2C1)C1=CC=C(C=C1)F)C[C@](C(C3)=O)(C(F)(F)F)O | 2C25H24F4N2O2
solvent | THF | 8.0 mL | C1CCOC1 | C4H8O
product | (2R,3 S,4aR,12bR)-12b-ethyl-9-(4-fluorophenyl)-2-methyl-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-2,3-diol; compound with (2S,3R,4aS,12bS)-12b-ethyl-9-(4-fluorophenyl)-2-methyl-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-2,3-diol | quantitative yield | C(C)[C@]12[C@@H](CCCC=3C1=CC=1C=NN(C1C3)C3=CC=C(C=C3)F)C[C@]([C@](C2)(O)C)(O)C(F)(F)F.C(C)[C@@]23[C@H](CCCC=1C2=CC=2C=NN(C2C1)C1=CC=C(C=C1)F)C[C@@]([C@@](C3)(O)C)(O)C(F)(F)F | 2C26H28F4N2O2
